US06583180B2
N-(2,3-dihydro-1,4-benzodioxin-6-ylmethyl)-N-(2-methyl-3-nitrophenyl)amine
2-Methyl-3-nitroaniline and 2,3-dihydro-1,4-benzodioxine-6-carbaldehyde were processed as described in Example 1C to provide the title compound.

reactant | 2-Methyl-3-nitroaniline | CC1=C(N)C=CC=C1[N+](=O)[O-] | C7H8N2O2
reactant | 2,3-dihydro-1,4-benzodioxine-6-carbaldehyde | O1CCOC2=C1C=CC(=C2)C=O | C9H8O3
product | N-(2,3-dihydro-1,4-benzodioxin-6-ylmethyl)-N-(2-methyl-3-nitrophenyl)amine | O1CCOC2=C1C=CC(=C2)CNC2=C(C(=CC=C2)[N+](=O)[O-])C | C16H16N2O4
